US04367226
N-β-D-Glucopyranosylthiourea
N-(2,3,4,6-Tetra-O-acetyl-β-D glucopyranosyl)-5-benzylidenerhodanine(5.52 g., 0.01 mole) was added to a solution of 50 ml. of methanol saturated with ammonia at 0° in a pressure bottle. The mixture was stirred at room temperature for 18 hours with the stopper well closed. The mixture was evaporated to a syrupy material below 30° in vacuo. The residue was dissolved in the minimum amount of methanol and passed through a silica gel column(2.54×15 cm) with aid of additional methanol. One hundred ml. of effluent was collected and concentrated. During the concentration, a precipitate was formed. The white precipitate was filtered and dried at room temperature in vacuo, yielding 2.04 g. (86.8%); m.p. 207°-209°(dec.). (Lit. m.p. 207°-210°(83), m.p. 211°-212°(32), m.p. 205°-207°(86).

reactant | N-(2,3,4,6-Tetra-O-acetyl-β-D glucopyranosyl)-5-benzylidenerhodanine | 0.01 mole, 5.52 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)N1C(SC(C1=O)=CC1=CC=CC=C1)=S | C24H25NO10S2
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | N-β-D-Glucopyranosylthiourea | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)NC(=S)N | C7H14N2O5S
